US06955851B2
2j. Bis(4-hydroxyphenyl)-tert-butylphosphine oxide mixture.
Bis(4-methoxyphenyl)-tert-butylphosphine oxide mixture (25.0 g), hydrobromic acid (770 g, 48%), and potassium bromide (30.0 g) were stirred for 25 h at 120° C. The flask was fitted with a sodium sulfite scrubber for containment of methyl bromide. The reaction mixture was worked up to give a tan solid (9.6 g, 40%). 31P NMR (d6-DMSO): δ 46.3 (s, 31.8%), 39.6 (s, 31.7%), 28.7 (s, 20.4%), −8.2 (s, 16.1%).

reactant | Bis(4-methoxyphenyl)-tert-butylphosphine oxide | 25.0 g | COC1=CC=C(C=C1)P(C(C)(C)C)(C1=CC=C(C=C1)OC)=O | C18H23O3P
reactant | hydrobromic acid | 770 g | Br | BrH
reactant | potassium bromide | 30.0 g | [Br-].[K+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl bromide | CBr | CH3Br
product | Bis(4-hydroxyphenyl)-tert-butylphosphine oxide | 9.6 g, 40% | OC1=CC=C(C=C1)P(C(C)(C)C)(C1=CC=C(C=C1)O)=O | C16H19O3P
